US08138189B2
Step 1: 2-Chloro-5-methoxy-benzeneacetic acid methyl ester
2-Chloro-5-methoxy-benzeneacetic acid (10 g, [CAS Reg. No. 91367-10-1]) was dissolved in MeOH (210 mL) and H2SO4 (0.7 mL) was added. The mixture was then refluxed overnight. Methanol was removed in vacuo and the residue was dissolved in ethyl acetate. The organic layer was washed with sat. NaHCO3 and brine, dried over Na2SO4 and evaporated. The title compound was obtained as a light brown oil (10.16 g, 95%) and was used without further purification. 1H-NMR (δ, CDCl3): 7.27 (d, 1H), 6.83 (d, 1H), 6.77 (dd, 1H), 3.79 (s, 3H), 3.74 (s, 2H), 3.72 (s, 3H).

reactant | 2-Chloro-5-methoxy-benzeneacetic acid | ClC1=C(C=C(C=C1)OC)CC(=O)O | C9H9ClO3
reactant | H2SO4 | 0.7 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 210 mL | CO | CH4O
product | 2-Chloro-5-methoxy-benzeneacetic acid methyl ester | COC(CC1=C(C=CC(=C1)OC)Cl)=O | C10H11ClO3
